US09107916B2
B. 2-[3-[2-(4-chlorophenyl)propan-2-yl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and methyl 4-(4-chlorophenyl)-4-methyl-3-oxopentanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | methyl 4-(4-chlorophenyl)-4-methyl-3-oxopentanoate | ClC1=CC=C(C=C1)C(C(CC(=O)OC)=O)(C)C | C13H15ClO3
product | 2-[3-[2-(4-chlorophenyl)propan-2-yl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC=C(C=C1)C(C)(C)C1=NN(C(=C1)O)C1=NC=CC(=C1)C#N | C18H15ClN4O
